US06281227B1
A. 7-Methoxynaphthalene-2-sulfonic acid [1-(2-chloro-quinolin-7ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-methyl amide
7-Methoxynaphthalene-2-sulfonic acid [1-(2-chloro-quinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide (0.4 g, 0.81 mmol), prepared as in EXAMPLE 15, Part F, is dissolved in DMF (20 mL) and cooled to 0° C. To the solution is added methyl iodide (0.28 g, 2.01 mmol) and sodium hydride (34 mg, 0.85 mmol, 60% mineral oil dispersion). The ice water bath is removed and the mixture is stirred at room temperature for 3 hours. The resulting solution is poured into a separatory funnel and diluted with EtOAc (100 mL). The organic layer is washed with 1N HCl, H2O and saturated NaCl. The organic phase is then dried over MgSO4, filtered and concentrated. The crude residue is purified by column chromatography eluting with 10% EtOAc/CH2Cl2 to give the title compound (0.36 g, 0.71 mmol) as a solid.

reactant | 7-Methoxynaphthalene-2-sulfonic acid [1-(2-chloro-quinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 0.81 mmol, 0.4 g | ClC1=NC2=CC(=CC=C2C=C1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C25H22ClN3O4S
reactant | methyl iodide | 2.01 mmol, 0.28 g | CI | CH3I
reactant | sodium hydride | 0.85 mmol, 34 mg | [H-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 7-Methoxynaphthalene-2-sulfonic acid [1-(2-chloro-quinolin-7ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-methyl amide | 0.71 mmol, 0.36 g | ClC1=NC2=CC(=CC=C2C=C1)CN1C([C@H](CC1)N(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)C)=O | C26H24ClN3O4S
